US06458474B1
Three point six five (3.65) grams (22.8 mmol) of diethyl malonate and 4.00 g (21.7 mmol) of 1,2-diphenylhydrazine were dissolved in 10 ml of n-butanol, then 4.61 g (23.9 mmol) of a 28% methanol solution of sodium methoxide was added thereto, and the reaction system was heated at 100° C. for 10 hours. Subsequently, the solvent was distilled off under reduced pressure, 10 ml of water was added thereto and stirred, and then the reaction solution was filtered. An activated carbon was added to the recovered filtrate and stirred for 30 minutes. After stirring, the solution was filtered again to recover the filtrate. Four (4) ml of hydrochloric acid was added to the filtrate, and the precipitated solid was recovered by filtration. Thus, 3.76 g (yield: 60%) of 1,2-diphenyl-3,5-pyrazolidinedione was obtained.

reactant | diethyl malonate | 22.8 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,2-diphenylhydrazine | 21.7 mmol, 4.00 g | C1(=CC=CC=C1)NNC1=CC=CC=C1 | C12H12N2
reactant | methanol | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 1,2-diphenyl-3,5-pyrazolidinedione | 3.76 g, yield: 60% | C1(=CC=CC=C1)N1N(C(CC1=O)=O)C1=CC=CC=C1 | C15H12N2O2
